US04276364
Preparation of 1-[4-(2-formylhydrazino)phenyl]-3,3-dimethylthiourea (NA-1)
1-Formyl-2-(4-aminophenyl)hydrazine (1.51 g, 0.01 mole) and triethylamine (1.0 g, 0.01 mole) were mixed with dry acetonitrile (30 ml). The mixture was kept under a nitrogen atmosphere and a solution of dimethylthiocarbamoyl chloride (1.24 g, 0.01 mole) in acetonitrile (10 ml) was added dropwise at room temperature. After the addition was complete, the reaction mixture was chilled in ice, then filtered. The solid was washed with ethanol and allowed to dry. The material was stirred in water (40 ml) and heated to 60° C. to remove any hydrochloride salts. The aqueous mixture was filtered; the solid was washed with ether and dried. This gave 0.60 g (25 percent) of product as a pale tan powder, m.p. 187°-189° C.

reactant | 1-Formyl-2-(4-aminophenyl)hydrazine | 0.01 mole, 1.51 g | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
reactant | triethylamine | 0.01 mole, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | dimethylthiocarbamoyl chloride | 0.01 mole, 1.24 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-[4-(2-formylhydrazino)phenyl]-3,3-dimethylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(C)C | C10H14N4OS
